US03966737
12 G. of 10-chloro-8-fluoro-10,11-dihydro-3-methoxy-dibenzo[b,f]thiepin are treated with 16.3 g. of N-methylpiperazine and stirred for 10 minutes at 100°-120°C. (internal temperature). Thereafter, the mixture is cooled and treated with 2N sodium hydroxide. The mixture is then extracted with ether and the organic phase washed with water. The ether solution is extracted with dilute methanesulfonic acid and the acidic solution made alkaline with sodium hydroxide and extracted with methylene chloride. The organic phase is washed with water, dried over magnesium sulfate and concentrated, and there is obtained 1-{8-fluoro-10,11-dihydro-3-methoxy-dibenzo[b,f]thiepin-10-yl}-4-methylpiperazine having a melting point of 141°-144°C. This base is converted by treatment with methanesulfonic acid into the methanesulfonate which has a melting point of 208°-210°C.

reactant | 10-chloro-8-fluoro-10,11-dihydro-3-methoxy-dibenzo[b,f]thiepin | ClC1CC2=C(SC3=C1C=C(C=C3)F)C=C(C=C2)OC | C15H12ClFOS
reactant | N-methylpiperazine | CN1CCNCC1 | C5H12N2
reactant | sodium hydroxide | 2N | [OH-].[Na+]
product | 1-{8-fluoro-10,11-dihydro-3-methoxy-dibenzo[b,f]thiepin-10-yl}-4-methylpiperazine | FC=1C=CC2=C(C(CC3=C(S2)C=C(C=C3)OC)N3CCN(CC3)C)C1 | C20H23FN2OS
